US07125896B2
b) 4-Bromo-[2-(2-methoxyethoxy)ethoxy]-2-methylbenzene
Prepared by the method of Example 42 (b) from 4-bromo-2-methylphenol and 2-(2-methoxyethoxy)ethyl tosylate.

reactant | 4-bromo-2-methylphenol | BrC1=CC(=C(C=C1)O)C | C7H7BrO
reactant | 2-(2-methoxyethoxy)ethyl tosylate | S(=O)(=O)(OCCOCCOC)C1=CC=C(C)C=C1 | C12H18O5S
product | 4-Bromo-[2-(2-methoxyethoxy)ethoxy]-2-methylbenzene | BrC1=CC(=C(C=C1)OCCOCCOC)C | C12H17BrO3
